*** SPICE deck for cell MUX_8_1_TG{sch} from library All_ICs
*** Created on Sat Apr 18, 2020 00:57:15
*** Last revised on Mon May 11, 2020 01:19:08
*** Written on Mon May 11, 2020 01:19:36 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

.global gnd vdd

*** TOP LEVEL CELL: MUX_8_1_TG{sch}
Mnmos@0 I0 net@16 net@5 gnd NMOS L=0.35U W=1.75U
Mnmos@1 I1 S2 net@5 gnd NMOS L=0.35U W=1.75U
Mnmos@2 net@16 S2 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@3 I2 net@49 net@8 gnd NMOS L=0.35U W=1.75U
Mnmos@4 I3 S2 net@8 gnd NMOS L=0.35U W=1.75U
Mnmos@5 net@49 S2 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@6 net@5 net@83 net@92 gnd NMOS L=0.35U W=1.75U
Mnmos@7 net@8 S1 net@92 gnd NMOS L=0.35U W=1.75U
Mnmos@8 net@83 S1 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@9 I4 net@127 net@155 gnd NMOS L=0.35U W=1.75U
Mnmos@10 I5 S2 net@155 gnd NMOS L=0.35U W=1.75U
Mnmos@11 net@127 S2 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@12 I6 net@129 net@123 gnd NMOS L=0.35U W=1.75U
Mnmos@13 I7 S2 net@123 gnd NMOS L=0.35U W=1.75U
Mnmos@14 net@129 S2 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@15 net@155 net@131 net@223 gnd NMOS L=0.35U W=1.75U
Mnmos@16 net@123 S1 net@223 gnd NMOS L=0.35U W=1.75U
Mnmos@17 net@131 S1 gnd gnd NMOS L=0.35U W=1.75U
Mnmos@18 net@92 net@246 out gnd NMOS L=0.35U W=1.75U
Mnmos@19 net@223 S0 out gnd NMOS L=0.35U W=1.75U
Mnmos@20 net@246 S0 gnd gnd NMOS L=0.35U W=1.75U
Mpmos@0 I0 S2 net@5 vdd PMOS L=0.35U W=1.75U
Mpmos@1 I1 net@16 net@5 vdd PMOS L=0.35U W=1.75U
Mpmos@2 net@16 S2 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@3 I2 S2 net@8 vdd PMOS L=0.35U W=1.75U
Mpmos@4 I3 net@49 net@8 vdd PMOS L=0.35U W=1.75U
Mpmos@5 net@49 S2 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@6 net@5 S1 net@92 vdd PMOS L=0.35U W=1.75U
Mpmos@7 net@8 net@83 net@92 vdd PMOS L=0.35U W=1.75U
Mpmos@8 net@83 S1 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@9 I4 S2 net@155 vdd PMOS L=0.35U W=1.75U
Mpmos@10 I5 net@127 net@155 vdd PMOS L=0.35U W=1.75U
Mpmos@11 net@127 S2 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@12 I6 S2 net@123 vdd PMOS L=0.35U W=1.75U
Mpmos@13 I7 net@129 net@123 vdd PMOS L=0.35U W=1.75U
Mpmos@14 net@129 S2 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@15 net@155 S1 net@223 vdd PMOS L=0.35U W=1.75U
Mpmos@16 net@123 net@131 net@223 vdd PMOS L=0.35U W=1.75U
Mpmos@17 net@131 S1 vdd vdd PMOS L=0.35U W=1.75U
Mpmos@18 net@92 S0 out vdd PMOS L=0.35U W=1.75U
Mpmos@19 net@223 net@246 out vdd PMOS L=0.35U W=1.75U
Mpmos@20 net@246 S0 vdd vdd PMOS L=0.35U W=1.75U

* Spice Code nodes in cell cell 'MUX_8_1_TG{sch}'
VDD VDD 0 DC 3.3
VGND GND 0 DC 0
Vin8 S0 0 pulse 0 3.3 100n 5n 5n 100n 200n
Vin9 S1 0 pulse 0 3.3 200n 5n 5n 200n 400n
Vin10 S2 0 pulse 0 3.3 400n 5n 5n 400n 800n
Vin0 I0 0 pulse 0 3.3 0n 5n 5n 50n 800n
Vin1 I1 0 pulse 0 3.3 100n 5n 5n 50n 800n
Vin2 I2 0 pulse 0 3.3 200n 5n 5n 50n 800n
Vin3 I3 0 pulse 0 3.3 300n 5n 5n 50n 800n
Vin4 I4 0 pulse 0 3.3 400n 5n 5n 50n 800n
Vin5 I5 0 pulse 0 3.3 500n 5n 5n 50n 800n
Vin6 I6 0 pulse 0 3.3 600n 5n 5n 50n 800n
Vin7 I7 0 pulse 0 3.3 700n 5n 5n 50n 800n
.TRAN 0 800n
.include C:\Electric\C5_models.txt
.END
